US07211573B2
b) (S)-2-tert-Butoxycarbonylamino-3-(2-methyl-6-nitro-phenoxy)-propionic acid benzyl ester
In an inert atmosphere and under exclusion of moisture, at 0° C. a solution of 1.5 g (10 mmol) of 2-methyl-6-nitro-phenol [Ger.Offen. 3536192] in 30 ml of N,N-dimethylformamide was treated portionwise with 0.42 g (18 mmol) of sodium hydride (55% dispersion in mineral oil). After complete addition, stirring was continued for 1 hour at 0° C. Thereafter, 3.85 g (11 mmol) of (S)-2,2-dioxo-2λ6-[1,2,3]oxathiazolidine-3,4-dicarboxylic acid 4-benzyl ester 3-tert-butyl ester was added and stirring continued at 0° C. for 3 hours, then at room temperature overnight. For the working-up, the solvent was evaporated under reduced pressure, the residue treated with 100 ml of hydrochloric acid (1 N), then extracted 3 times with 150 ml of ethyl acetate. The crude product (4.0 g) was obtained as a dark brown oil which was purified by flash-chromatography on silica gel using a gradient of a 100%:0%- to 50%:50%-mixture of heptane and ethyl acetate as the eluent. There were obtained 1.4 g (33%) of the title compound as an yellow oil, [α]589=−1.45° (c=1.0% in MeOH), MS m/e (%): 431.4 (M+H+, 13).

reactant | 2-methyl-6-nitro-phenol | 10 mmol, 1.5 g | CC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO3
reactant | sodium hydride | 18 mmol, 0.42 g | [H-].[Na+]
reactant | (S)-2,2-dioxo-2λ6-[1,2,3]oxathiazolidine-3,4-dicarboxylic acid 4-benzyl ester 3-tert-butyl ester | 11 mmol, 3.85 g | C(C)(C)(C)OC(=O)N1S(OC[C@H]1C(=O)OCC1=CC=CC=C1)(=O)=O | C15H19NO7S
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-2-tert-Butoxycarbonylamino-3-(2-methyl-6-nitro-phenoxy)-propionic acid benzyl ester | 1.4 g, 33% | C(C1=CC=CC=C1)OC([C@H](COC1=C(C=CC=C1[N+](=O)[O-])C)NC(=O)OC(C)(C)C)=O | C22H26N2O7
